### PR TITLE
The map B tensor_A O_v -> \prod_{w|v} O_w is an isomorphism (#329)

### PR DESCRIPTION
**Pull request by matthewjasper**
Not the proof in the blueprint to avoid having to work with discriminants and to avoid bases as much as possible.
This also doesn't need the finite set of exceptions.
Still needs some work, but the proofs probably won't change too much now.

### CODE REVIEW

File: FLT/Mathlib/Topology/Algebra/Valued/ValuationTopology.lean [hunk 1]
```diff
@@ -8,3 +8,16 @@ lemma Valued.isUnit_valuationSubring_iff {Γ₀ : Type*} [LinearOrderedCommGroup
     IsUnit x ↔ Valued.v (x.val : F) = 1 := by
   convert Valuation.Integers.isUnit_iff_valuation_eq_one _
   exact Valuation.integer.integers _
+
+/-- The unit ball of a valued ring is open. -/
```
Comment (matthewjasper) [inline FLT/Mathlib/Topology/Algebra/Valued/ValuationTopology.lean:12]:
```suggestion
/-- The unit ball of a valued ring is closed. -/
```

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 2]
```diff
@@ -493,42 +496,216 @@ noncomputable def tensorAdicCompletionIntegersTo (v : HeightOneSpectrum A) :
...
+        rw [Algebra.ofId_apply]
+        have halgMap : (algebraMap A (adicCompletion K v)) a =
+            (algebraMap A K a) • (1 : adicCompletion K v) := by
+          rw [← Algebra.algebraMap_eq_smul_one]
+          rfl
+        rw [halgMap, ← TensorProduct.smul_tmul]
+        simp [← Algebra.smul_def, IsScalarTower.algebraMap_smul]
+
+open TensorProduct.AlgebraTensorModule in
+set_option maxHeartbeats 400000 in
```
Comment (matthewjasper) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:571]: I need to look at this

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 3]
```diff
@@ -493,42 +496,198 @@ noncomputable def tensorAdicCompletionIntegersTo (v : HeightOneSpectrum A) :
...
+  intro t ⟨s, hs⟩
+  rw [← hs]
+  clear t hs
+  induction s with
+    | zero =>
+        apply subset_closure
+        use 0
+        simp
+    | add x y hx hy =>
+        -- Instances are timing out without help
```
Comment (matthewjasper) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:513]: This also doesn't work on CI

File: FLT/DedekindDomain/DenseIntegers.lean [hunk 4]
```diff
@@ -0,0 +1,273 @@
...
+  let f := fun (k : WithVal (v.valuation K)) => (k : v.adicCompletion K)
+  have hd : DenseRange f := by
+    apply UniformSpace.Completion.denseRange_coe
+  apply subset_antisymm
+  . apply closure_minimal _ Valued.valuationSubring_isClosed
+    rintro b ⟨a, rfl⟩
+    exact HeightOneSpectrum.coe_mem_adicCompletionIntegers v a
+  suffices h : closure (algebraMap A (HeightOneSpectrum.adicCompletion K v)).range =
+      closure (f '' (f ⁻¹' (HeightOneSpectrum.adicCompletionIntegers K v))) by
+    rw [h]
```
[the remark this answers is not in the document]
Comment (matthewjasper) [reply FLT/DedekindDomain/DenseIntegers.lean]: Never mind, that theorem uses less than

File: FLT/DedekindDomain/AdicValuation.lean [hunk 5]
```diff
@@ -0,0 +1,288 @@
...
+import Mathlib.Algebra.Algebra.Subalgebra.Pi
+import Mathlib.Algebra.Order.GroupWithZero.Canonical
+
+namespace IsDedekindDomain
+
+variable { A : Type* } ( K : Type* ) [CommRing A] [Field K] [Algebra A K] [IsFractionRing A K]
+    [IsDedekindDomain A] (v : HeightOneSpectrum A)
+
+lemma intValuation_eq_coe_neg_multiplicity { a : A } ( hnz : a ≠ 0 ) :
+    v.intValuationDef a =
```
[the remark this answers is not in the document]
Comment (kbuzzard) [reply FLT/DedekindDomain/AdicValuation.lean:13]: Yeah good question! `Mathlib/RingTheory/DedekindDomain/AdicValuation.lean` seems to develop API for both, with inconsistent naming as well? But it doesn't seem to be used elsewhere. My instinct would be to use `v.intValuation` everywhere and also make a PR to mathlib making that file more consistent (e.g. either fix the names of lemmas like `intValuation_ne_zero` and 5 or so others which talk about `intValuationDef` not `intValuation`, or just make them about `intValuation` anyway, or maybe even rename `intValuationDef to `intValuation.toFun`.

File: FLT/DedekindDomain/AdicValuation.lean [hunk 6]
```diff
@@ -0,0 +1,288 @@
...
+    decide
+  apply lt_mul_of_le_of_one_lt
+  . apply le_sup_of_le_right
+    rw [Int.ofNat_toNat, le_sup_iff]
+    left
+    rfl
+  decide
+
+/-- An element of `K` with valuation ≤ 1 can be approximated by an element of `A`.
+  -/
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:90]:
```suggestion
-/
```

File: FLT/DedekindDomain/AdicValuation.lean [hunk 7]
```diff
@@ -0,0 +1,288 @@
...
+  obtain ⟨a, ha⟩ := exists_adicValued_sub_lt_of_adicValued_le_one K v γ hx
+  use algebraMap A K a
+  constructor
+  . use a
+    rfl
+  apply hγ
+  simpa
+
+/-- A is dense in `𝒪_v`. -/
+theorem denseRange_of_integerAlgebraMap :
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:169]: Getting this into mathlib would be a very natural project.

File: FLT/DedekindDomain/AdicValuation.lean [hunk 8]
```diff
@@ -0,0 +1,288 @@
...
+    DenseRange (algebraMap A (v.adicCompletionIntegers K)) := by
+  rw [denseRange_iff_closure_range]
+  ext x
+  simp only [Set.mem_univ, iff_true]
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:173]:
```suggestion
  rw [denseRange_iff_closure_range, Set.eq_univ_iff_forall]
  intro x
```

File: FLT/DedekindDomain/AdicValuation.lean [hunk 9]
```diff
@@ -0,0 +1,288 @@
...
+      (mul_le_mul_of_nonneg_left bc a0).trans_lt <| mul_lt_of_lt_one_left c0 ha
+    apply mul_lt_of_lt_one_of_le'
+    . norm_cast
+    . rw [← WithZero.coe_inv]
+      apply le_of_le_of_eq _ (WithZero.coe_unzero (e i).ne_zero)
+      rw [WithZero.coe_le_coe, ← ofAdd_neg, neg_sup]
+      apply inf_le_of_left_le
+      apply le_of_eq (Int.neg_neg (WithZero.unzero (e i).ne_zero))
+    . norm_cast
+    apply Units.zero_lt
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:229]: You've proved this before, right? This is again just the statement that given an element of Z_m (the nonzero elements of Z_m0), there's an element of -N_m which is less than it. This proof looks even longer than the one you gave the first time, when you proved that given two elements of Z_m there was an element of -N_m which is less than both of them. I think you should just pull out this lemma as a sublemma and just use it both here and in the two-variable case.

File: FLT/DedekindDomain/AdicValuation.lean [hunk 10]
```diff
@@ -0,0 +1,288 @@
...
+  have hinj : ∀ i ∈ s, ∀ j ∈ s, i ≠ j →
+      (fun i ↦ (valuation i).asIdeal) i ≠ (fun i ↦ (valuation i).asIdeal) j := by
+    intro i hi j hj
+    contrapose!
+    intro hij
+    apply injective
+    apply HeightOneSpectrum.ext hij
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:236]:
```suggestion
    exact mt <| fun hij ↦ injective (HeightOneSpectrum.ext hij)
```
It's exactly the same but it makes you look much cleverer.

File: FLT/DedekindDomain/AdicValuation.lean [hunk 11]
```diff
@@ -0,0 +1,288 @@
...
+    (valuation : ι → HeightOneSpectrum A) (injective : Function.Injective valuation) :
+    closure (SetLike.coe (algebraMap A ((i : ι) → (valuation i).adicCompletion K)).range) =
+    (Set.pi Set.univ (fun (i : ι) ↦ HeightOneSpectrum.adicCompletionIntegers K (valuation i))) := by
+  apply Set.Subset.antisymm
+  . apply closure_minimal
+    . rintro c ⟨a, ha⟩ i -
+      rw [← ha]
+      simp only [Pi.algebraMap_apply, SetLike.mem_coe]
+      exact HeightOneSpectrum.coe_mem_adicCompletionIntegers (valuation i) a
+    apply isClosed_set_pi
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:267]: Again this argument should be indented with a dot.

File: FLT/DedekindDomain/AdicValuation.lean [hunk 12]
```diff
@@ -0,0 +1,288 @@
...
+    rintro w -
+    exact Valued.valuationSubring_isClosed
+  intro f hf
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:270]: And here.

File: FLT/DedekindDomain/AdicValuation.lean [hunk 13]
```diff
@@ -0,0 +1,288 @@
...
+  rw [mem_closure_iff_nhds_zero]
+  intro U hU
+  rw [Pi.zero_def, nhds_pi, Filter.mem_pi'] at hU
+  obtain ⟨I, t, htn, hts⟩ := hU
+  obtain ⟨g, hg⟩ := Classical.axiomOfChoice
+    (fun w => (Valued.is_topological_valuation (t w)).mp (htn w))
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:276]:
```suggestion
  choose g hg using (fun w => (Valued.is_topological_valuation (t w)).mp (htn w))
```
This is the idiomatic way to write what you wrote.

File: FLT/DedekindDomain/AdicValuation.lean [hunk 14]
```diff
@@ -0,0 +1,288 @@
...
+  obtain ⟨a, ha⟩ :=
+    exists_forall_adicValued_sub_lt K I g valuation injective (fun w => ⟨f w, hf w ⟨⟩⟩)
+  use algebraMap A _ a
+  constructor
+  . rw [RingHom.coe_range]
+    exact Set.mem_range_self a
+  apply hts
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:283]: . and indent

File: FLT/DedekindDomain/AdicValuation.lean [hunk 15]
```diff
@@ -0,0 +1,288 @@
...
+  intro w hw
+  apply hg
+  apply ha w hw
+
+end IsDedekindDomain
```
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:288]: Well done! This is a tour de force!

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 16]
```diff
@@ -491,42 +495,176 @@ noncomputable def tensorAdicCompletionIntegersTo (v : HeightOneSpectrum A) :
...
+        apply subset_closure
+        use algebraMap A B a * b
+        unfold f
+        rw [Algebra.algebraMap_eq_smul_one (A := (adicCompletionIntegers K v)) a,
+          coe_smul_adicCompletionIntegers, ← TensorProduct.smul_tmul, Algebra.ofId_apply,
+          Algebra.TensorProduct.algebraMap_apply, RingHom.map_mul, ← Algebra.smul_def]
+        simp
+
+open TensorProduct.AlgebraTensorModule in
+open scoped Classical in
```
[the remark this answers is not in the document]
Comment (kbuzzard) [reply FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:559]: I would discourage `open scoped Classical in` but here it seems like you can just delete it?

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 17]
```diff
@@ -491,42 +495,176 @@ noncomputable def tensorAdicCompletionIntegersTo (v : HeightOneSpectrum A) :
...
+    [Module.Finite A B] [IsDedekindDomain B] [IsFractionRing B L]  in
+lemma tensorAdicCompletionIsClosedRange :
+    IsClosed (SetLike.coe (tensorAdicCompletionIntegersTo A K L B v).range) := by
+  -- `B ⊗[A] 𝒪_v` is a subgroup of `L ⊗[K] K_v`, so we can show it's closed
+  -- by showing that it's open.
+  rw [← Subalgebra.coe_toSubring, ← Subring.coe_toAddSubgroup]
+  letI : Module (adicCompletion K v) (L ⊗[K] adicCompletion K v) :=
+      Algebra.TensorProduct.rightAlgebra.toModule
+  letI : SMul (adicCompletion K v) (L ⊗[K] adicCompletion K v) :=
+      Algebra.TensorProduct.rightAlgebra.toSMul
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:571]: You don't need these, typeclass inference will take care of them because of the local instance on line 560.

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 18]
```diff
@@ -491,42 +495,176 @@ noncomputable def tensorAdicCompletionIntegersTo (v : HeightOneSpectrum A) :
...
+  use equiv.symm '' (Set.pi Set.univ (fun _ => SetLike.coe (adicCompletionIntegers K v)))
+  refine ⟨?_, ?_, ?_⟩
+  . intro t ⟨g, hg, ht⟩
+    -- We have `t = equiv g = ∑ i, b i ⊗ g i`, since `g in ∏ 𝒪_v` and
+    -- `b i ∈ (algebraMap B L).range`, this is `tensorAdicCompletionIntegersTo`
+    -- of some element of `B ⊗[A] 𝒪_v`
+    have hf : ∀ (i : ι), ∃ (w : B), (algebraMap B L w) = (b i) := by
+      intro i
+      apply IsIntegralClosure.isIntegral_iff.mp (hb i)
+    obtain ⟨f, hf_prop⟩ := Classical.axiomOfChoice hf
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:598]:
```suggestion
    choose f hf_prop using hf
```

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 19]
```diff
@@ -491,42 +495,176 @@ noncomputable def tensorAdicCompletionIntegersTo (v : HeightOneSpectrum A) :
...
+  obtain ⟨ι, b, hb⟩ := FiniteDimensional.exists_is_basis_integral A K L
+  let b' : Basis ι (adicCompletion K v) (L ⊗[K] (adicCompletion K v)) :=
+    Basis.rightBaseChange L b
+  -- Use the basis to get a continuous equivalence from `L ⊗[K] K_v` to `ι → K_v`.
+  let equiv : L ⊗[K] (adicCompletion K v) ≃L[K] (ι → adicCompletion K v) :=
+    IsModuleTopology.continuousLinearEquiv (b'.equivFun) |>.restrictScalars K
+
+  -- Use the preimage of `∏ 𝒪_v` as the open neighbourhood.
+  use equiv.symm '' (Set.pi Set.univ (fun _ => SetLike.coe (adicCompletionIntegers K v)))
+  refine ⟨?_, ?_, ?_⟩
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:590]:
```suggestion
  refine ⟨?_, ?_, by simp [ValuationSubring.zero_mem]⟩
```
saves you a line later

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 20]
```diff
@@ -491,42 +495,176 @@ noncomputable def tensorAdicCompletionIntegersTo (v : HeightOneSpectrum A) :
...
+omit [Algebra.IsSeparable K L] [IsDomain B] [Algebra.IsIntegral A B] [Module.Finite A B]
+    [IsDedekindDomain B] [IsFractionRing B L] in
+lemma tensorAdicCompletionIntegersToRange_eq_closureIntegers :
+    SetLike.coe (tensorAdicCompletionIntegersTo A K L B v).range =
+        closure (algebraMap B (L ⊗[K] adicCompletion K v)).range := by
+  apply Set.Subset.antisymm
+  . apply tensorAdicCompletionIntegersToRange_subset_closureIntegers
+  apply closure_minimal
+  . intro c ⟨b, hb⟩
+    rw [← hb]
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:634]:
```suggestion
  . rintro c ⟨b, rfl⟩
```
and again this proof should be more indented.

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 21]
```diff
@@ -491,42 +495,176 @@ noncomputable def tensorAdicCompletionIntegersTo (v : HeightOneSpectrum A) :
...
+  rw [Subalgebra.coe_pi]
+  show (SetLike.coe (Submodule.pi _  _)) = _
+  rw [Submodule.coe_pi]
+  let val := (fun (w : Extension B v) ↦ w.1)
+  have hinj : Function.Injective val :=
+    (Set.injective_codRestrict Subtype.property).mp fun _ _ a ↦ a
+  rw [closureAlgebraMapIntegers_eq_prodIntegers L val hinj]
+  rfl
+
+set_option synthInstance.maxHeartbeats 40000 in
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:652]: Do you know why this is happening? I can take a look later.

File: FLT/DedekindDomain/AdicValuation.lean (hunk 9 above)
Comment (kbuzzard) [inline FLT/DedekindDomain/AdicValuation.lean:229]: You've proved this before, right? This is again just the statement that given an element of Z_m (the nonzero elements of Z_m0), there's an element of -N_m which is less than it. This proof looks even longer than the one you gave the first time, when you proved that given two elements of Z_m there was an element of -N_m which is less than both of them. I think you should just pull out this lemma as a sublemma and just use it both here and in the two-variable case.

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean (hunk 17 above)
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:571]: You don't need these, typeclass inference will take care of them because of the local instance on line 560.

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean (hunk 21 above)
Comment (kbuzzard) [reply FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:652]: Adding
```lean
instance : MulActionHomClass
    (L ⊗[K] adicCompletion K v →ₐ[L] (w : Extension B v) → adicCompletion L w.1) B
    (L ⊗[K] adicCompletion K v) ((w : Extension B v) → adicCompletion L w.1) where
  map_smulₛₗ φ b x := by
    rw [← IsScalarTower.algebraMap_smul L, AlgHom.map_smul_of_tower,
      IsScalarTower.algebraMap_smul, id_def]
```
before the lemma fixes it. I diagnosed this by looking at the instance trace; Lean was spending 1.5 seconds trying and failing to solve this using typeclass inference.

File: FLT/Mathlib/RingTheory/TensorProduct/Basis.lean [hunk 22]
```diff
@@ -0,0 +1,51 @@
...
+variable {R : Type*} (A : Type*) {B : Type*} {ι : Type*} [CommSemiring R]
+variable [CommSemiring A] [Algebra R A] [Fintype ι]
+variable [CommSemiring B] [Algebra R B]
+
+/-- The lift of an `R`-basis of `A` to a `B`-basis of the base change `A ⊗[R] B`. -/
+
+noncomputable
+def Basis.rightBaseChange (b : Basis ι R A) : Basis ι B (A ⊗[R] B) where
+  repr :=
+    letI : DecidableEq ι := Classical.typeDecidableEq ι
```
Comment (kbuzzard) [inline FLT/Mathlib/RingTheory/TensorProduct/Basis.lean:21]: I am not sure that this is right. There could be a competing decidable equality instance on \io if it is for example `Fin n`. I would ask on the Zulip if I were you (or I can ask if you'd rather). You could always put `[DecidableEq \io]` as a hypothesis, this is probably preferable.

File: FLT/Mathlib/RingTheory/TensorProduct/Basis.lean [hunk 23]
```diff
@@ -0,0 +1,51 @@
...
+        (LinearEquiv.refl B B)
+        b.equivFun).trans
+      (TensorProduct.piScalarRight _ _ _ _)
+    let finite : (ι →₀ B) ≃ₗ[B] (ι → B) := Finsupp.linearEquivFunOnFinite B B ι
+    comm.symm.trans π |>.trans finite.symm
+
+@[simp]
+lemma Basis.rightBaseChange_repr (b : Basis ι R A) (i) (x : B) :
+    (b.rightBaseChange A).repr (b i ⊗ₜ x) = Finsupp.single i x := by
+  letI : DecidableEq ι := Classical.typeDecidableEq ι
```
[the remark this answers is not in the document]
Comment (kbuzzard) [reply FLT/Mathlib/RingTheory/TensorProduct/Basis.lean:34]: If you go with 
```
def Basis.rightBaseChange (b : Basis ι R A) [DecidableEq ι] : Basis ι B (A ⊗[R] B) where
```
then this should be
```
lemma Basis.rightBaseChange_repr [DecidableEq ι] (b : Basis ι R A) (i) (x : B) :
```
with no `classical` or `Classical` in sight.

[the remark this answers is not in the document]
Comment (kbuzzard) [reply FLT/Mathlib/RingTheory/TensorProduct/Basis.lean:34]: Hmm, I just looked at https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/TensorProduct/Basis.html#Basis.baseChange and they manage to do things without assuming decidable equality at all. Maybe it's better to just copy the proof there?

File: FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 24]
```diff
@@ -243,11 +243,13 @@ over a complete thing so I don't think there can be any other possibility
 (the argument is weak here)
 -/
 
+@[simps!]
 def continuousLinearEquiv {A B R : Type*} [TopologicalSpace A]
     [TopologicalSpace B] [TopologicalSpace R] [Semiring R] [AddCommMonoid A] [AddCommMonoid B]
     [Module R A] [Module R B] [IsModuleTopology R A] [IsModuleTopology R B]
     (e : A ≃ₗ[R] B) :
     A ≃L[R] B where
+  toFun := e
```
[the remark this answers is not in the document]
Comment (kbuzzard) [reply FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean:252]: Maybe they even make it more readable? I think it's fine...

File: FLT/Mathlib/Topology/Algebra/Valued/ValuationTopology.lean [hunk 25]
```diff
@@ -8,3 +8,16 @@ lemma Valued.isUnit_valuationSubring_iff {Γ₀ : Type*} [LinearOrderedCommGroup
     IsUnit x ↔ Valued.v (x.val : F) = 1 := by
   convert Valuation.Integers.isUnit_iff_valuation_eq_one _
   exact Valuation.integer.integers _
+
+/-- The unit ball of a valued ring is closed. -/
+theorem Valued.integer_isClosed ( R : Type* ) {Γ₀ : Type*} [Ring R]
+    [LinearOrderedCommGroupWithZero Γ₀] [_i : Valued R Γ₀] : IsClosed (_i.v.integer : Set R) := by
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Valued/ValuationTopology.lean:14]: I think `_i` conventionally means "I will not ever use this variable", so maybe you want to call it `i` or `inst`?

**Review by kbuzzard — APPROVED** [review]

**Comment by kbuzzard** [comment]
> Not the proof in the blueprint to avoid having to work with discriminants and to avoid bases as much as possible. 

That's fine!

> This also doesn't need the finite set of exceptions. 

I had not realised that this was true! I realise now what I was confused by. Here's something which is *not* true. Say M,L are K-algebras and all are number fields and if M/K is normal and "contains the Galois closure of L/K" (i.e. contains a copy of L). Then there's a natural isomorphism L tensor_K M -> sum_phi M as phi runs over the embeddings L -> M. What is not true is that this map induces an isomorphism on integer rings, because things can go wrong at ramified primes. But the point is that both L and M can be ramified at a place of K and that's where things can go wrong. In this situation where M is not a number field but a completion, it is (I guess formally?) unramified (if that makes sense in this context).

File: FLT/Mathlib/RingTheory/TensorProduct/Basis.lean (hunk 23 above)
[the remark this answers is not in the document]
Comment (matthewjasper) [reply FLT/Mathlib/RingTheory/TensorProduct/Basis.lean:34]: They use classical here: https://github.com/leanprover-community/mathlib4/blob/446b459fb17e024ec88cdfd27021cd8b177e5e58/Mathlib/LinearAlgebra/DirectSum/Finsupp.lean#L251 .

The other problem with copying their proof is that they have  a lot of lemmas using the `leftHasSMul` instance, which we can't be used here.

File: FLT/DedekindDomain/AdicValuation.lean [hunk 26]
```diff
@@ -0,0 +1,288 @@
...
+  -- Extract y by writing b as a general term of the sum of the two ideals.
+  obtain ⟨x, hx, z, hz, hxz⟩ := Submodule.mem_sup.mp hb
+  obtain ⟨y, hy⟩ := Ideal.mem_span_singleton'.mp hz
+  use y
+  -- And again prove the result about valuations by turning into one about ideals.
+  rwa [hy, ← hxz, sub_add_cancel_right, HeightOneSpectrum.intValuation_le_pow_iff_dvd,
+      Ideal.dvd_span_singleton, neg_mem_iff]
+
+open scoped Multiplicative in
+private lemma exists_ofAdd_lt_and_ofAdd_lt { x y : ℤₘ₀ } ( hx : x ≠ 0 ) ( hy : y ≠ 0) :
```
[the remark this answers is not in the document]
Comment (matthewjasper) [reply FLT/DedekindDomain/AdicValuation.lean]: The lemmas for this should be much better now.

File: FLT/DedekindDomain/AdicValuation.lean (hunk 7 above)
Comment (matthewjasper) [reply FLT/DedekindDomain/AdicValuation.lean:207]: There's a lot of mathlib projects I'm think about after this.

**Comment by kbuzzard** [comment]
Not that this matters, but your `force push` made `gh pr checkout 400` stop working at my end. I fixed it by deleting my version of the branch (which was not problematic).

File: FLT/Mathlib/Algebra/Order/GroupWithZero.lean [hunk 27]
```diff
@@ -0,0 +1,32 @@
...
+  {x y : WithZero G} (hx : x ≠ 0) (hy : y ≠ 0) :
+    ∃ z, z ≠ 0 ∧ z ≤ x ∧ z ≤ y := by
+  let z := x ⊓ y
+  use z
+  constructor
+  . unfold z
+    intro hz
+    rw [min_eq_iff] at hz
+    tauto
+  . constructor <;> simp_all [z]
```
Comment (kbuzzard) [inline FLT/Mathlib/Algebra/Order/GroupWithZero.lean]:
```suggestion
  use x ⊓ y
  refine ⟨fun hz ↦ ?_, by simp, by simp⟩
  rw [min_eq_iff] at hz
  tauto
```
No different, just noting some techniques: you don't need to introduce z, and for P \and Q \and R goals it's probably easier to use `refine \<?_, ?_, ?_\>` than two `constructors.

**Review by kbuzzard — APPROVED** [review]
Thanks a lot for this great effort! A bunch of this stuff should probably be in mathlib.
